US05082841
A mixture of 3-butyryl-4-chloro-8-phthalimidoquinoline (61.6 g, 0.16 moles) and o-toluidine (20 ml, 0.19 mol) was heated under reflux in 1,4-dioxan (300 ml) for 3 hours. The solvent was evaporated and the residue was dissolved in chloroform, washed with dil. ammonia solution and brine. The organic solution was dried (anhyd. MgSO4) filtered and evaporated to a dark oil which crystallized on standing to give 3-butyryl-4-(2-methylphenylamino)-8-phthalimidoquinoline (42 g, 58.3%), m.p. b 170°-2° C.

reactant | 3-butyryl-4-chloro-8-phthalimidoquinoline | 0.16 moles, 61.6 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C21H15ClN2O3
reactant | o-toluidine | 0.19 mol, 20 ml | NC=1C(=CC=CC1)C | C7H9N
solvent | 1,4-dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methylphenylamino)-8-phthalimidoquinoline | 42 g, 58.3% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)N1C(C=2C(C1=O)=CC=CC2)=O | C28H23N3O3
